* RC discharge from an initial condition — the .tran counterpart to rc_step.net.
* There is no source at all: the capacitor starts charged at 5 V and decays through R1,
* so the initial condition IS the stimulus. V(out) = 5*exp(-t/RC), RC = 1k * 1u = 1ms.
* IC= is SPICE's per-element initial condition, honoured only by a transient run (UIC
* semantics — no DC operating point is solved first), exactly as QSPICE treats it.
R1 out gnd 1000
C1 out gnd 1e-6 IC=5
.tran 5e-6 5e-3 UIC
.end
